US04705801
β-Methoxy-2,3-dichlorostyrene
47.3 g of sodium methylate are introduced into 1.5 liters of absolute ethanol. There are then added portionwise, at room temperature, firstly 300.0 g of methoxymethyltriphenylphosphonium chloride and afterwards 142.5 g of 2,3-dichlorobenzaldehyde, and the reaction mixture is heated at 70° C. for about 60 hours. After cooling to room temperature, the mixture is filtered, and the filtrate is concentrated in vacuo. The residue is taken up in pentane, washed, again concentrated by evaporation, and filtered over SiO2 with dichloromethane. Excess solvent is removed in vacuo. There is thus obtained β-methoxy-2,3-dichlorostyrene as a 1:1 (E/Z) mixture in the form of a light-yellow oil.

reactant | sodium methylate | 47.3 g | C[O-].[Na+]
reactant | methoxymethyltriphenylphosphonium chloride | 300.0 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2,3-dichlorobenzaldehyde | 142.5 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
solvent | ethanol | 1.5 liters | C(C)O | C2H6O
product | β-Methoxy-2,3-dichlorostyrene | COC=CC1=C(C(=CC=C1)Cl)Cl | C9H8Cl2O
